US06492385B2
Step 63a: Preparation of Ethyl 2-[(tert-butoxycarbonyl)amino]-1,3-thiazole-5-carboxylate:
A flask is charged with a solution of ethyl 2-amino-1,3-thiazole-5-carboxylate (2.65 g, 15.4 mmol) and 4-dimethylaminopyridine (10 mg) in THF (75 mL). Di(tert-butyl)dicarbonate (3.6 mL, 15.4 mmol,1.0 eq) and TEA (4.3 mL, 30.8 2.0 eq) are added, and the resulting solution is stirred at room temperature for 90 minutes. The reaction mixture is concentrated to dryness, and the crude product is crystallized from CHCl3/hexanes to give a light brown solid. Yield 68%. HRMS (FAB) calculated for C11H16N2O4S+H 273.0909, found 273.0897.

reactant | ethyl 2-amino-1,3-thiazole-5-carboxylate | 15.4 mmol, 2.65 g | NC=1SC(=CN1)C(=O)OCC | C6H8N2O2S
reactant | Di(tert-butyl)dicarbonate | 15.4 mmol, 3.6 mL, 1.0 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | Ethyl 2-[(tert-butoxycarbonyl)amino]-1,3-thiazole-5-carboxylate | Yield 68% | C(C)(C)(C)OC(=O)NC=1SC(=CN1)C(=O)OCC | C11H16N2O4S
